US06239074B1
3-[4-Chloro-3-(2-cyanoethenyl)-phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (compound 1.34)
3.3 g of 3-(4-chloro-3-formylphenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine in 30 ml of dimethylformamide were added dropwise to a suspension of 1.8 g of diethyl cyanomethylphosphonate and 1.5 g of potassium carbonate in 120 ml of dimethylformamide, and stirring was carried out for 20 hours at room temperature. Thereafter, 150 ml of water were added and the precipitate which had separated out was isolated, washed with water and petroleum ether and dried.

reactant | 3-(4-chloro-3-formylphenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 3.3 g | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=O | C13H8ClF3N2O3
reactant | diethyl cyanomethylphosphonate | 1.8 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 3-[4-Chloro-3-(2-cyanoethenyl)-phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=CC#N | C15H9ClF3N3O2
